Data/regression/wb97xd3/fold_0/aam_pretrain_train.csv
AAM,ea
[C:1]([N:2]=[C:3]=[C:5]=[N:6][N:4]([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5]#[N:6])([H:7])([H:8])[H:9],36.45940745671701
[C:5]=[N:6][H:11].[N:1]([C:2](=[O:7])[H:10])([H:8])[H:9].[N:3]#[N:4]>>[N:1]([c:2]1[n:3][n:4][c:5]([N:6]([H:10])[H:11])[o:7]1)([H:8])[H:9],83.9056207411484
[H:8][H:11].[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:9])=[C:5]([H:10])[O:6]1>>[N:1]#[C:2][C@@:3]1([H:7])[C:4]([H:8])([H:9])[C:5]([H:10])([H:11])[O:6]1,76.76336072875812
[C:1]([C:2]([C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C-:1]([O+:4]=[C:3]([C:2]([H:7])([H:10])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:8])[H:9],101.675656799187
[C:1]([C:2](/[C:3]([C:4]([H:14])([H:15])[H:16])=[C:5](\[C:7]([H:21])([H:22])[H:23])[H:17])([H:11])[H:12])([H:8])([H:9])[H:10].[C:6]([H:13])([H:18])([H:19])[H:20]>>[C:1]([C:2]([C@@:3]([C:4]([H:14])([H:15])[H:16])([C:5]([C:6]([H:18])([H:19])[H:20])([C:7]([H:21])([H:22])[H:23])[H:17])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],80.60561591939263
[N:1]#[C:2][C@@:3]([O:4][H:8])([N:7]=[C:6]=[C:5]([H:10])[H:11])[H:9]>>[N:1]#[C:2][C:3]([O:4][C:5]([C:6]#[N:7])([H:10])[H:11])([H:8])[H:9],58.45911619894729
[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@:4]([N:5]([H:12])[H:13])([H:11])[C:6]1>>[C:1]1([H:7])([H:8])[C:2]([H:9])=[C:3]([H:10])[C@@:4]2([H:11])[N:5]([H:12])[C@@:6]12[H:13],4.878247446487791
[O:1]([C:2]([C:3]([O:4][H:11])([C:5]([O:6][H:14])([H:12])[H:13])[H:10])([H:8])[H:9])[H:7]>>[H:11][H:13].[O:1]([C:2]([C@:3]([O:4][H:14])([C:5](=[O:6])[H:12])[H:10])([H:8])[H:9])[H:7],61.6249514373022
[O:1](/[C:2](=[C:3](\[O:4][H:7])[H:9])[C:5]#[C:6][H:10])[H:8]>>[O:1]([C@@:2]([C:3](=[O:4])[H:9])([C:5]#[C:6][H:10])[H:8])[H:7],49.492323552218984
[C:1]([C:2]1=[C:3]([H:12])[C@:4]([C:5]([H:13])([H:14])[H:15])([O:7][H:11])[C:6]1([H:16])[H:17])([H:8])([H:9])[H:10]>>[C:1]([C:2]12[C:3]([H:11])([H:12])[C:4]([C:5]([H:13])([H:14])[H:15])([C:6]1([H:16])[H:17])[O:7]2)([H:8])([H:9])[H:10],84.8375697747116
[O:1]([C:2]([C:3]([H:6])([H:8])[H:9])([O:4][H:10])[H:7])[H:5]>>[O:1]([C:2]([C:3]([O:4][H:10])([H:8])[H:9])([H:6])[H:7])[H:5],97.34486538315952
[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([N:4]([H:13])[H:14])[C:5]#[N:6])([H:7])([H:8])[H:9]>>[C+:2]([N:4]([H:13])[H:14])=[C:5]=[N-:6].[C:1]([C:3]([H:10])([H:11])[H:12])([H:7])([H:8])[H:9],111.99855945181
[C:1](/[N+:2](=[C:3](\[C:4]#[N:5])[C:6](=[N-:7])[H:12])[H:11])([H:8])([H:9])[H:10]>>[C:1]([N:2]([C:3]([C:4]#[N:5])([C:6]#[N:7])[H:12])[H:11])([H:8])([H:9])[H:10],16.7397583583165
[C:1]([C@@:2]([O:3][H:12])([C:4]([N:5]([C:6](=[O:7])[H:16])[H:15])([H:13])[H:14])[H:11])([H:8])([H:9])[H:10]>>[C:1]([C@@:2]([O:3][H:12])([C-:4]([N+:5]([C:6](=[O:7])[H:16])([H:13])[H:15])[H:14])[H:11])([H:8])([H:9])[H:10],96.6446587696017
[C:1]([O:2][C:3]([C:4]([C:5]#[C:6][H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3]([C:4]([C:6](=[C:5])[H:14])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9],58.28524401882071
[C:1]([C:2]([O:3][H:10])([O:5][H:13])[H:9])([H:6])([H:7])[H:8].[C:4]([H:11])[H:12]>>[C:1]([C@@:2]([O:3][H:10])([C:4]([O:5][H:13])([H:11])[H:12])[H:9])([H:6])([H:7])[H:8],23.249861807055595
[N:1](=[C:2]=[C:7]([C:6](=[O:5])[H:9])[H:10])[H:8].[N:3]#[N:4]>>[N:1]#[C:2][C:7]([C:6](=[O:5])[H:9])([H:8])[H:10].[N:3]#[N:4],56.404048513831995
[C:4](=[N:5][H:13])([H:11])[H:12].[O:1]([C:2]([C:3](=[C:6]=[O:7])[H:14])([H:9])[H:10])[H:8]>>[O:1]([C:2]([C@@:3]1([C:6](=[O:7])[H:14])[C:4]([H:11])([H:12])[N:5]1[H:13])([H:9])[H:10])[H:8],60.90775377753181
[N:1](=[C:2](/[O:3][C:4]([C:5]([C:6]#[N:7])([H:12])[H:13])([H:10])[H:11])[H:9])\[H:8]>>[N:1]1([H:8])[C-:2]=[O+:3][C:4]([H:10])([H:11])[C:5]([H:12])([H:13])/[C:6]1=[N:7]/[H:9],97.03190860414641
[O:1]([C:2]([C:3]#[C:4][C:5](=[O:6])[H:10])([H:8])[H:9])[H:7]>>[O:1]1[C:2]([H:8])([H:9])[C:3][C@:4]1([C:5](=[O:6])[H:10])[H:7],88.92924656639259
[C:1]([O+:2]=[C-:3][O:4][C:5]#[N:6])([H:7])([H:8])[H:9]>>[C:1]([O:2][C:3](=[O:4])[C:5]#[N:6])([H:7])([H:8])[H:9],24.105389527832905
[C:1](/[N:2]=[C:3](\[N:4]([H:10])[H:11])[C:5](=[O:6])[H:12])([H:7])([H:8])[H:9]>>[C:1]([H:7])([H:8])([H:9])[H:11].[N:2](=[C:3]=[N:4][H:10])[C:5](=[O:6])[H:12],88.1192020852218
[O:1]([C@@:2]1([H:9])[C@@:3]([C:4]#[N:5])([H:11])[C:6]1=[C:7]([H:10])[H:12])[H:8]>>[O:1]([C@@:2]([C:3]([C:4]#[N:5])([H:10])[H:11])([C:6]#[C:7][H:12])[H:9])[H:8],68.3761246651694
[C:1]([C:2]1([C:3]([H:10])([H:11])[H:12])[C:5]([O:4][H:13])=[C:6]1[H:14])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([O:4][H:13])[C:5]#[C:6][H:14])([H:7])([H:8])[H:9],53.4961457444152
[C:1]([O+:2]=[C-:3][C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9].[C:4]([C:5]([H:13])([H:14])[H:15])([H:10])([H:11])[H:12]>>[C:1]([O:2][C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])([H:7])([H:8])[H:9],69.04506022264471
[O:1]=[C:2]([C:3](=[O:4])[C:5](=[O:6])[H:8])[H:7]>>[O:1]=[C:2]([O:4][O:6][C:5](=[C:3])[H:8])[H:7],139.368502267804
